US04792628
8 Grams of 4-methyl-7-crotyloxy-1-indanone was suspended in 50 ml of tetrahydronaphthalene. The suspension was refluxed by heating for 9 hours under argon gas atmosphere. The reaction mixture was purified by means of a silica gel column chromatography (eluent: n-hexane, then a mixture of n-hexane: dichloromethane=2:1) and was recrystallized from a mixture of dichloromethane with n-hexane to obtain 5.44 g of 4-methyl-6-(1-methyl-2-propenyl)-1-indanone.

reactant | 4-methyl-7-crotyloxy-1-indanone | CC1=C2CCC(C2=C(C=C1)OCC=CC)=O | C14H16O2
solvent | tetrahydronaphthalene | 50 ml | C1CCCC2=CC=CC=C12 | C10H12
product | 4-methyl-6-(1-methyl-2-propenyl)-1-indanone | 5.44 g | CC1=C2CCC(C2=CC(=C1)C(C=C)C)=O | C14H16O
